US09290517B2
Step A: 2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-5-(4-(3,6-dihydro-2H-thiopyran-4-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)-methyl)-1H-imidazo[4,5-b]pyridine
Placed 2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)-oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine (500 mg, 0.672 mmol), 3,6-dihydro-2H-thiopyran-4-yl trifluoromethanesulfonate (250 mg, 10.8 mmol), and 1M aqueous potassium phosphate tribasic (2.02 ml, 2.02 mmol) under nitrogen in dioxane (7.0 ml). Cooled in dry-ice/acetone bath, pulled a hard vacuum, then introduced nitrogen (3×). Added [1,1′-bis(diphyenylphosphino)ferrocene]dichloropalladium(II) (55 mg, 0.067 mmol) to the frozen mixture, pulled a hard vacuum, then introduced nitrogen (3×). Removed ice bath and stirred mixture at 80° C. for 6 hours. The mixture was cooled to room temperature and poured into saturated aqueous sodium bicarbonate (50 ml). The mixture was extracted with ethyl acetate (2×100 ml), dried over sodium sulfate, and concentrated under reduced pressure. The resultant dark oil was chromatographed using a 40 g silica gel cartridge eluted with 0-40% EtOAc in hexanes over 20 column volumes. The desired product fractions were combined and concentrated under reduced pressure to provide the desired product as a white solid.

reactant | 2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)-oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | 0.672 mmol, 500 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)N2)COCC[Si](C)(C)C | C36H55BClN3O7Si2
reactant | 3,6-dihydro-2H-thiopyran-4-yl trifluoromethanesulfonate | 10.8 mmol, 250 mg | FC(S(=O)(=O)OC=1CCSCC1)(F)F | C6H7F3O3S2
reactant | potassium phosphate tribasic | 2.02 mmol, 1M, 2.02 ml | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | dioxane | 7.0 ml | O1CCOCC1 | C4H8O2
solvent | dry-ice acetone | C(=O)=O.CC(=O)C
product | 2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-5-(4-(3,6-dihydro-2H-thiopyran-4-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)-methyl)-1H-imidazo[4,5-b]pyridine | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C=1CCSCC1)N2)COCC[Si](C)(C)C | C35H50ClN3O5SSi2
